US08912200B2
Step 3: 5-(2-Amino-5-iodo-pyrimidin-4-yl)-2-(5-chloro-2-methyl-phenyl)-1H-pyrrole-3-carboxylic acid (VI)
5-(2-Amino-pyrimidin-4-yl)-2-(5-chloro-2-methyl-phenyl)-1H-pyrrole-3-carboxylic acid (0.70 g, 2.13 mmol) and Iodine (1.134 g, 4.47 mmol) in dry DMF (5 mL), under a nitrogen atmosphere, were stirred at −40° C. (internal temperature) and treated drop wise with silver trifluoroacetate (0.987 g, 4.47 mmol) in DMF (5 mL). The mixture was stirred at −40° C. for 7 h and then filtered over a short plug of celite. The panel was washed with DMF (5 mL) and the filtrate was collected in a flask containing 10% Na2S2O3 (50 mL). Precipitation of a pale yellow solid occurred. Dilution with water (50 mL) and filtration of the solid afforded 0.79 g of crude product, which was reacted in the next step with no further purification.

reactant | 5-(2-Amino-pyrimidin-4-yl)-2-(5-chloro-2-methyl-phenyl)-1H-pyrrole-3-carboxylic acid | 2.13 mmol, 0.70 g | NC1=NC=CC(=N1)C1=CC(=C(N1)C1=C(C=CC(=C1)Cl)C)C(=O)O | C16H13ClN4O2
reactant | Iodine | 4.47 mmol, 1.134 g | II | I2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | silver trifluoroacetate | 4.47 mmol, 0.987 g | FC(C(=O)[O-])(F)F.[Ag+]
product | 5-(2-Amino-5-iodo-pyrimidin-4-yl)-2-(5-chloro-2-methyl-phenyl)-1H-pyrrole-3-carboxylic acid | 0.79 g | NC1=NC=C(C(=N1)C1=CC(=C(N1)C1=C(C=CC(=C1)Cl)C)C(=O)O)I | C16H12ClIN4O2
